US03941821
A mixture of 52.5 g. (0.167 moles) of ethyl α,2'-dichloro-4-biphenylylacetate and 160 ml. of glacial acetic acid containing 40 ml. of 37% hydrochloric acid is refluxed for 20 hours. The mixture is concentrated under reduced pressure to give a gummy residue. The latter material is dissolved in 300 ml. of n-hexane, washed with ice-cold water (100 ml. total), dried over sodium sulfate and filtered. The hexane is removed to give α,2'-dichloro-4-biphenylylacetic acid.

reactant | ethyl α,2'-dichloro-4-biphenylylacetate | 0.167 moles | ClC(C(=O)OCC)C1=CC=C(C=C1)C1=C(C=CC=C1)Cl | C16H14Cl2O2
reactant | hydrochloric acid | Cl | ClH
solvent | acetic acid | 40 ml | C(C)(=O)O | C2H4O2
product | α,2'-dichloro-4-biphenylylacetic acid | ClC(C(=O)O)C1=CC=C(C=C1)C1=C(C=CC=C1)Cl | C14H10Cl2O2
